US04778834
A resin/BPO stock catalyst mixture was prepared by dissolving 0.1 part of BPO in 3 parts of TEGMA and using that solution to dilute seven parts of bis-GMA to prepare a 73:0.1 mixture (all parts by weight) of bis-GMA:TEGMA:BPO. A bis-GMA/TEGMA/DHET (7:3:0.05) accelerator solution was prepared in the same way. Both solutions were kept under refrigeration until needed for further use.

reactant | bis-GMA | CC(=C)C(=O)OCC(COC1=CC=C(C=C1)C(C)(C)C2=CC=C(C=C2)OCC(COC(=O)C(=C)C)O)O | C29H36O8
reactant | TEGMA | CC(=C)C(=O)OCCOCCOCCOC(=O)C(=C)C | C14H22O6
product | bis-GMA TEGMA | CC(=C)C(=O)OCC(COC1=CC=C(C=C1)C(C)(C)C2=CC=C(C=C2)OCC(COC(=O)C(=C)C)O)O.CC(=C)C(=O)OCCOCCOCCOC(=O)C(=C)C | InChI=1S/C29H36O8.C14H22O6/c1-19(2)27(32)36-17-23(30)15-34-25-11-7-21(8-12-25)29(5,6)22-9-13-26(14-10-22)35-16-24(31)18-37-28(33)20(3)4;1-11(2)13(15)19-9-7-17-5-6-18-8-10-20-14(16)12(3)4/h7-14,23-24,30-31H,1,3,15-18H2,2,4-6H3;1,3,5-10H2,2,4H3
